US06642229B2
3-Bromoimidazo[1,2-a]pyrimidine (0.29 g, 1.68 mmol) was coupled with 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 3′-(imidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile (260 mg, 60%) as an off-white powder: δH (360 MHz, CDCl3) 6.97 (1H, dd, J 7 and 4), 7.51 (1H, td, J 1 and 8), 7.59 (1H, dd, J 7 and 1), 7.62-7.73 (4H, m), 7.77-7.78 (1H, m), 7.82 (1H, dd, J 8 and 1), 7.96 (1H, s), 8.60 (1H, dd, J 7 and 2), 8.98 (1H, d, J 7 and 2); m/z (ES+) 297 (M++H).

reactant | 3-Bromoimidazo[1,2-a]pyrimidine | 1.68 mmol, 0.29 g | BrC1=CN=C2N1C=CC=N2 | C6H4BrN3
reactant | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
product | 3′-(imidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile | 260 mg, 60% | N=1C=C(N2C1N=CC=C2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C19H12N4
